US05278148
100 mg (0.168 mmol) of (RS)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(isopropylamino)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]imidazole-4-propionamide in 10 ml of methanol and 1 ml of triethylamine were treated with 100 mg of (Boc)2O and left to stand at room temperature overnight. Thereafter, the reaction mixture was evaporated under reduced pressure and the residue was chromatographed on 30 g of silica gel with a 14:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluting agent. Crystallization of the thus-obtained crude product (80 mg) from ether/hexane yielded 62 mg of t-butyl [(2S,3S)-4-cyclohexyl-3-[(R)-2-[(S)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-(imidazol-4-yl)propionamido]-2-hydroxybutyl]isopropylcarbamate as a white solid, melting point 81° , MS: 696 (M+H)+.

reactant | (RS)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(isopropylamino)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]imidazole-4-propionamide | 0.168 mmol, 100 mg | C1(CCCCC1)C[C@@H]([C@H](CNC(C)C)O)NC(C(CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C34H53N5O4
reactant | (Boc)2O | 100 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 ml | CO | CH4O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | t-butyl [(2S,3S)-4-cyclohexyl-3-[(R)-2-[(S)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-(imidazol-4-yl)propionamido]-2-hydroxybutyl]isopropylcarbamate | 62 mg | C1(CCCCC1)C[C@@H]([C@H](CN(C(OC(C)(C)C)=O)C(C)C)O)NC([C@@H](CC=1N=CNC1)NC([C@@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C39H61N5O6
